US08377968B2
C. Synthesis of N-((1-(2-(1-methylethylsulfonamido)ethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (Compound 20)
A solution of N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (70 mg, 0.18 mmol) and 2,6-lutidine (123 μL, 0.882 mmol) in CH2Cl2 (2 mL) was treated with isopropylsulfonyl chloride (49.9 mg, 0.35 mmol). The reaction was stirred overnight and then transferred to a test tube containing saturated aqueous NaHCO3 (4 mL) and EtOAc (4 mL). The biphasic mixture was mixed vigourously and allowed to separate for 15 min. After separation, the mixture was cooled to −20° C. until the aqueous layer was frozen. The organic layer was then poured off and the solvent was removed under reduced pressure at 50° C. The resulting residue was purified by HiTOPs

reactant | N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | 0.18 mmol, 70 mg | NCCN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C17H21F6N3O
reactant | 2,6-lutidine | 0.882 mmol, 123 μL | N1=C(C=CC=C1C)C | C7H9N
reactant | isopropylsulfonyl chloride | 0.35 mmol, 49.9 mg | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | NaHCO3 | 4 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
product | N-((1-(2-(1-methylethylsulfonamido)ethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | CC(C)S(=O)(=O)NCCN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C20H27F6N3O3S
